US09227982B2
Intermediate 3. Benzyl (4-oxo-4,5,7,8-tetrahydro-3H-pyrano[4,3-d]pyrimidin-2-yl)methylcarbamate
To a solution of methyl 4-oxotetrahydro-2H-pyran-3-carboxylate (51.1 g, 323 mmol) and benzyl 2-amino-2-iminoethylcarbamate hydrochloride (78.8 g, 323 mmol) in anhydrous ethanol was added sodium ethoxide (122 mL, 323 mmol, 21% in ethanol). The mixture was mechanically stirred, heated at reflux for 24 h, cooled down to ambient temperature, and filtered to give the title compound (55.6 g, 55% yield). 1H NMR (400 MHz, DMSO-d6) δ 12.40 (br. s., 1H), 7.69 (t, J=5.8 Hz, 1H), 7.15-7.44 (m, 5H), 4.99-5.08 (m, 2H), 4.35 (s, 2H), 4.04-4.11 (m, 2H), 3.84 (t, J=5.3 Hz, 2H), 2.48-2.57 (m, 2H). MS m/z 316.2 (M+1), retention time=1.10 min.

reactant | methyl 4-oxotetrahydro-2H-pyran-3-carboxylate | 323 mmol, 51.1 g | O=C1C(COCC1)C(=O)OC | C7H10O4
reactant | benzyl 2-amino-2-iminoethylcarbamate hydrochloride | 323 mmol, 78.8 g | Cl.NC(CNC(OCC1=CC=CC=C1)=O)=N
reactant | sodium ethoxide | 323 mmol, 122 mL | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Benzyl (4-oxo-4,5,7,8-tetrahydro-3H-pyrano[4,3-d]pyrimidin-2-yl)methylcarbamate | 55.6 g, 55% yield | O=C1C2=C(N=C(N1)CNC(OCC1=CC=CC=C1)=O)CCOC2 | C16H17N3O4
